US05733912
17a. 7a-(5-bromo-3-pyridinyl)-hexahydro-1H-pyrrolizine
3,5-dibromopyridine (500 mg, 2.11 mmol, Aldrich) was dissolved in Et2 O and cooled to -95° C. A solution of 2.5M t-BuLi (1.7M in pentane, 2.7 mL, 4.64 mmol) in pentane was added dropwise. 1,2,3,5,6,7-hexahydropyrrolizinium perchlorate (663 mg, 3.2 mmol) was added, and the reaction mixture was allowed to stir and warm to -10° C. and stir for 2 hours. The cold bath was removed, 2N HCl was added, and the phases were separated. The aqueous phase was basified with 15% NaOH and extracted with CH2Cl2 (2×). The CH2 Cl2 fractions were combined, dried (MgSO4) and concentrated, and the residue was chromatographed (silica gel; CHCl3 /MeOH, 98:2) to afford a clear oil (160 mg, 28%): 1H NMR (CDCl3, 300 MHz) 67 1.57-1.71 (m, 2H), 1.79-2.04 (m, 6H), 2.62-2.73 (m, 2H), 3.11-3.20 (m, 2H), 8.04 (dd, J=2.0, 2.0 Hz, 1H), 8.46 (d, J=2.0 Hz, 1H), 8.58 (d, J=2.0 Hz, 1H); MS (CI/NH3) m/z: 267/269 (M+H)+.

reactant | 3,5-dibromopyridine | 2.11 mmol, 500 mg | BrC=1C=NC=C(C1)Br | C5H3Br2N
reactant | t-BuLi | 4.64 mmol, 2.5M, 2.7 mL | [Li]C(C)(C)C
reactant | 1,2,3,5,6,7-hexahydropyrrolizinium perchlorate | 3.2 mmol, 663 mg | Cl(=O)(=O)(=O)[O-].C1CC[N+]=2CCCC12
solvent | pentane | CCCCC | C5H12
product | 7a-(5-bromo-3-pyridinyl)-hexahydro-1H-pyrrolizine | 160 mg, 28% | BrC=1C=C(C=NC1)C12CCCN2CCC1 | C12H15BrN2
